Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Vomiting
 
Major Surgical or Invasive Procedure:
ERCP ___

 
History of Present Illness:
___ y/o F w/ COPD on home O2, CAD w/ remote hx of PCI & stent, 
and moderate dementia presents with sudden onset of vomiting.  
Patient is an unreliable historian due to her dementia, but 
patient's daughter was present to provide additional details.  
She says that yesterday the patient developed vomiting, was 
noted to be pale.  Taken to the ___ ER, where she was found 
to have abdominal pain with palpation, particularly in the 
epigastric and RUQ areas.  Daughter also noted that the patient 
was slightly yellowish yesterday, which was new.  She says that 
the patient had been not quite herself, and more fatigued over 
the past several days.  Denies recent fevers/chills. Denies 
recent worsening cough, wheezing, or SOB.

Currently, the patient says she feels hungry, denies abdominal 
pain, nausea, chest pain or lightheadedness.
.
ROS: 
+chronic DOE with minimal exertion, uses 2L O2 at night and when 
resting pOx is less than 90% during the day, strangely however, 
she does not use the oxygen when she ambulates (per family 
report) and, not surprisingly, becomes winded very easily
.
10 systems reviewed with patient's daughter and negative except 
as noted above.
 
Past Medical History:
COPD on 2L NC at home (always on at night, sometimes during day)
CAD w/ hx of stent (___)
Dementia
Remote hx of PE, not on current anticoagulation
Denies hx of HTN, DM
.
PSHx
s/p hysterectomy
s/p right breast lumpectomy
 
Social History:
___
Family History:
Mother lived to ___, had DM and CAD
 
Physical Exam:
ADMISSION EXAM:
VS: 97.6  172/86  75  18  97% on RA
Gen: NAD
HEENT: EOMI, PERRL, MMM, sclera anicteric
Neck: supple, no LAD
Chest: moderate/severe bilateral crackles, more prominent at the 
bases
Cards: RR, no m/r/g
Abd: soft, not distended, not tender to palpation, BS hypoactive
Ext: WWP, + ___ edema
Neuro: awake, alert, oriented to person only
Psych: pleasant, calm, cooperative

DISCHARGE EXAM:
Vitals: T97.7 BP 102/80 P77 RR18 O2 sat 99%2L
Gen: well appearing, elderly woman, sitting up in chair, NAD
HEENT: dry MM, OP clear, anicteric sclera
Heart: RRR, no M/R/G
Lungs: decreased BS through, crackles over b/l bases. No 
wheezing
or rhonchi
Abdomen: Soft, NT/ND, +BS, no rebound or guarding
Extremities: WWP, 2+ pulses, no edema
Neuro: AO x 2 (Name, hospital, year), otherwise non-focal exam
GU: No foley
 
Pertinent Results:
ADMISSION LABS:
.
___ 04:50AM BLOOD WBC-8.1 RBC-4.79 Hgb-13.3 Hct-41.3 MCV-86 
MCH-27.8 MCHC-32.2 RDW-13.4 RDWSD-41.8 Plt ___
___ 04:50AM BLOOD Glucose-117* UreaN-11 Creat-0.8 Na-139 
K-3.8 Cl-105 HCO3-25 AnGap-13
___ 04:50AM BLOOD ALT-201* AST-296* AlkPhos-174* 
TotBili-1.2
___ 04:50AM BLOOD Lipase-21
___ 04:50AM BLOOD Albumin-3.5 Calcium-8.9 Phos-2.3* Mg-1.8
___ 04:50AM BLOOD ___ PTT-29.5 ___
___ 04:50AM BLOOD proBNP-1051*
___ 05:03AM BLOOD Lactate-1.0
.
IMAGING:
From ___ Code ED:
.
CXR: R basilar opacity c/f atelectasis vs mild airspace disease
.
RUQ U/S: 1. Cholelithiasis, borderline wall thickening 
suggesting early or mild cholecystitis,CBD 15mm +sonographic 
___ sign
-Possible distal CBD stone
.
OSH labs: WBC 8.64, hematocrit 45.4, plt 164, TBili 1.9, DBili 
1.2, AST242, ALT135, lipase 98 Trop < .046, INR1

MRCP ___:
IMPRESSION: 
 1.  Choledocholithiasis with moderate upstream biliary 
dilation, as described above.
2.  Mildly distended gallbladder with sludge and a stone.  
Additionally, there is mild gallbladder wall edema and 
pericholecystic fluid.  This likely due to obstruction at the 
common bile duct, as no stone is noted in the neck of the 
gallbladder or in the cystic duct.
3.  Subcentimeter pancreatic cystic lesions, which most likely 
represent side branch IPMNs.  In a patient of this age with 
cysts of this size, no specific followup is currently 
recommended.

ERCP ___:
The scout film was normal.
The bile duct was deeply cannulated with the sphincterotome.
Contrast was injected.Contrast extended to the entire biliary 
tree.
The CBD was 14 mm in diameter. 
Two filling defects consistent with stones were identified in 
the CBD and CHD.
Opacification of the gallbladder was incomplete.
The left and right hepatic ducts and all intrahepatic branches 
were normal. A biliary sphincterotomy was made with a 
sphincterotome.
There was no post-sphincterotomy bleeding. 
A 8mm CRE balloon was introduced for dilation and the diameter 
was progressively increased to 10 mm successfully. 
The biliary tree was swept with a 9-12mm balloon starting at the 
bifurcation.
Two 1cm stones,sludge and dark bile were removed.  
The CBD and CHD were swept repeatedly until no further stones 
were seen.
The final occlusion cholangiogram showed no evidence of filling 
defects in the CBD.
Excellent bile and contrast drainage was seen endoscopically and 
fluoroscopically.
Otherwise normal ercp to third part of the duodenum

DISCHARGE LABS:

___ 06:27AM BLOOD WBC-6.2 RBC-4.41 Hgb-12.3 Hct-37.5 MCV-85 
MCH-27.9 MCHC-32.8 RDW-13.1 RDWSD-40.4 Plt ___
___ 06:27AM BLOOD Glucose-76 UreaN-7 Creat-0.7 Na-139 K-3.3 
Cl-102 HCO3-28 AnGap-12
___ 06:27AM BLOOD ALT-55* AST-34 AlkPhos-112* TotBili-0.6
___ 06:27AM BLOOD Calcium-8.7 Phos-2.8 Mg-1.___ y/o F w/ sudden on set of vomiting, subsequently found to 
have RUQ and epigastric tenderness, transaminitis and RUQ u/s 
consistent with possible choledocholithiasis with obstruction 
and possible resulting cholecystitis.

# Transaminitis due to
# choledocholithiasis with obstruction: pt underwent MRCP which 
confirmed biliary obstruction with gallstones and upstream 
biliary dilatation.  She then underwent an ERCP with removal of 
sludge and stone.  She was initially NPO but then diet was 
slowly advanced back to normal which she tolerated well. She 
tolerated the procedure well, but did require diuresis with 
lasix x 1 post procedure and she was weaned back to her baseline 
O2 requirement.  She had no signs or symptoms of 
infection/cholangitis.  Post-ERCP she was treated with 
Ciprofloxacin x 5 days.  She was discharged home on a regular 
diet to f/u with her PCP.

# COPD on home O2
# Chronic hypoxic respiratory failure: she was continued on home 
O2 while hospitalized. After getting IVF while being NPO she was 
noted to have daytime O2 requirement w/elevated BNP and crackles 
on Exam. She was given lasix IV x 1 and weaned back to RA prior 
to discharge to continue O2 at night only at home.  She was 
treated with home inhalers/nebs as needed.  She had no s/s of 
COPD exacerbation while hospitalized.

# CAD w/ remote hx of stent: home aspirin held for 5 days 
post-ERCP

# HTN: not on HTN meds at baseline. BP was trended and was < 
150/90 at discharge and no anti-hypertensives were needed while 
hospitalized

# Dementia: continued home Aricept

# GERD: continued home omeprazole

# Code status: DNR/DNI (confirmed with patient and daughter/HCP 
on ___

TRANSITIONAL ISSUES:
- no aspirin, ibuprofen, NSAIDs or anticoagulants for 5 days 
post-ERCP
- pt d/c home with ___ and ___ to help transition back to 
semi-independent living 
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Aspirin 81 mg PO DAILY 
2. Tiotropium Bromide 1 CAP IH DAILY 
3. Donepezil 5 mg PO QHS 
4. Fluticasone-Salmeterol Diskus (500/50)  1 INH IH BID 
5. Omeprazole 20 mg PO DAILY 
6. Albuterol Inhaler ___ PUFF IH Q4H:PRN dyspnea/wheezing 

 
Discharge Medications:
1. Donepezil 5 mg PO QHS 
2. Fluticasone-Salmeterol Diskus (500/50)  1 INH IH BID 
3. Omeprazole 20 mg PO DAILY 
4. Tiotropium Bromide 1 CAP IH DAILY 
5. Ciprofloxacin HCl 500 mg PO Q12H Duration: 4 Days 
RX *ciprofloxacin HCl 500 mg 1 tablet(s) by mouth twice a day 
Disp #*8 Tablet Refills:*0
6. Ipratropium-Albuterol Neb 1 NEB NEB Q6H:PRN dyspnea/wheezing 
RX *ipratropium-albuterol 0.5 mg-3 mg (2.5 mg base)/3 mL 3 mL IH 
every 6 hours Disp #*10 Ampule Refills:*0
7. Albuterol Inhaler ___ PUFF IH Q4H:PRN dyspnea/wheezing 

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
Biliary obstruction/choledocholethiasis

 
Discharge Condition:
Mental Status: Confused - sometimes.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).

 
Discharge Instructions:
Ms. ___, you were admitted to ___ with vomiting. You were 
found a bile obstruction and underwent a procedure called an 
ERCP to remove the stones.  You will need to be on antibiotics 
for 5 days to prevent infection.  Please remember no aspirin, 
NSAIDs or ibuprofen for the next 5 days.   You will be 
discharged home with physical therapy and visiting nurses to 
help you transition back to independent living.  Please see 
below for your follow-up appointments. It was a pleasure caring 
for you and we wish you a speedy recovery.
 
Followup Instructions:
___